US09145392B2
(E)-3-(4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-5-yl)-acrylic acid methyl ester (“45”)
To a mixture of 4-amino-6-(4-{4-[4-fluoro-3-(trifluoromethyl)phenyl]-1-methyl-1H-imidazol-2-yl}piperidin-1-yl)pyrimidine-5-carbaldehyde (100 mg; 0.22 mmol; 1.0 eq.) in DMSO (2 mL), methyl (triphenylphosphoranylidene)acetate (82.0 mg; 0.25 mmol; 1.1 eq.), lithium chloride (19.1 mg; 0.45 mmol; 2.0 eq.) and triethylamine (0.04 ml; 0.27 mmol; 1.2 eq.) were added. The resulting suspension was stirred at 60° C. overnight. The crude was purified by pre-HPLC (Waters, basic condition) to afford the title compound in 72% yield. LC-MS: (M+1=505, obsd.=505).

reactant | 4-amino-6-(4-{4-[4-fluoro-3-(trifluoromethyl)phenyl]-1-methyl-1H-imidazol-2-yl}piperidin-1-yl)pyrimidine-5-carbaldehyde | 0.22 mmol, 100 mg, 1.0 eq. | NC1=NC=NC(=C1C=O)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C | C21H20F4N6O
reactant | methyl (triphenylphosphoranylidene)acetate | 0.25 mmol, 82.0 mg, 1.1 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | lithium chloride | 0.45 mmol, 19.1 mg, 2.0 eq. | [Cl-].[Li+]
reactant | triethylamine | 0.27 mmol, 0.04 ml, 1.2 eq. | C(C)N(CC)CC | C6H15N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (E)-3-(4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-5-yl)-acrylic acid methyl ester | 72% yield | COC(\C=C\C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N)=O | C24H24F4N6O2
